US07375101B2
3-Azido-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 6, KHMDS (1.34 mL of 0.5 M in toluene, 0.670 mmol), 7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (0.171 g, 0.637 mmol), trisyl azide (0.493 g, 1.59 mmol) and acetic acid (0.16 mL, 2.8 mmol) were combined. After workup, purification of the crude product by silica gel column chromatography (100% CH2Cl2 to 9:1 CH2Cl2:EtOAc) provided the title compound as a pale yellow solid (0.163 g, 83%). 1H-NMR (CDCl3): δ 7.72-7.67 (m, 2H), 7.54-7.49 (m, 1H), 7.47-7.42 (m, 2H), 7.39 (dd, J=4.8 Hz, J=9.2 Hz, 1H), 7.36-7.30 (m, 1H), 7.08 (dd, J=2.8 Hz, J=8.4 Hz, 1H), 4.55 (s, 1H), 3.45 (s, 3H). MS (ESI) (M+H)+=310.

reactant | KHMDS | 0.670 mmol, 0.5 M, 1.34 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.637 mmol, 0.171 g | FC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13FN2O
reactant | trisyl azide | 1.59 mmol, 0.493 g | CC(C)C1=CC(=C(C(=C1)C(C)C)S(=O)(=O)N=[N+]=[N-])C(C)C | C15H23N3O2S
reactant | acetic acid | 2.8 mmol, 0.16 mL | C(C)(=O)O | C2H4O2
product | 3-Azido-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.163 g, 83% | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)F)C)=O | C16H12FN5O
